US06586633B1
Production of 3-Bromo-4-fluorobenzylbromide
3-Bromo-4-fluorotoluene (9.36 g; 49.5 mmol) was dissolved in carbon tetrachloride (100 ml), and N-bromosuccinimide (8.82 g; 49.6 mmol) and benzoyl peroxide (200 mg) were added thereto. The mixture was heated under reflux for 1 hour, and then cooled. Insoluble matter was filtered off, followed by washing with carbon tetrachloride. The filtrate was concentrated under reduced pressure, and n-hexane (120 ml) was added thereto. The mixture was left to stand, and insoluble matter was filtered off, followed by washing with n-hexane. The filtrate was evaporated, to thereby yield 13.04 g of a mixture of the target-compound, the starting compound, and the dibromo compound (yield based on the weight of the mixture: 98.2%).

reactant | 3-Bromo-4-fluorotoluene | 49.5 mmol, 9.36 g | BrC=1C=C(C=CC1F)C | C7H6BrF
reactant | N-bromosuccinimide | 49.6 mmol, 8.82 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 200 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 3-Bromo-4-fluorobenzylbromide | yield 13.04 g | BrC=1C=C(CBr)C=CC1F | C7H5Br2F
